US06359145B1
Methyl 4-[3-(trifluoromethyl)phenyl]-2-oxobutyrate was prepared as an oil from 3-iodobenzotrifluoride and methyl 2-hydroxy-3-butenoate.

reactant | 3-iodobenzotrifluoride | IC=1C=C(C=CC1)C(F)(F)F | C7H4F3I
reactant | methyl 2-hydroxy-3-butenoate | OC(C(=O)OC)C=C | C5H8O3
product | Methyl 4-[3-(trifluoromethyl)phenyl]-2-oxobutyrate | FC(C=1C=C(C=CC1)CCC(C(=O)OC)=O)(F)F | C12H11F3O3
